US07132425B2
A solution of 5-methylpyrazine-2-carboxylic acid (1.38 g, 10 mmol) in anhydrous N,N-dimethylformamide (5 mL) was treated with dimethylformamide dimethylacetal (5 mL). The resulting mixture was heated at 90° C. for 1 h and then at 125° C. for 2 h. The mixture was cooled to 25° C. and then was poured into water (100 mL). This solution was extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with water (1×50 mL) and a saturated aqueous sodium chloride solution (1×50 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The resulting dark oil was triturated with diethyl ether/hexanes (5/1) to afford 5-(2-dimethylamino-vinyl)-pyrazine-2-carboxylic acid methyl ester (1.3 g, 63%) as an orange solid which was used without further purification.

reactant | 5-methylpyrazine-2-carboxylic acid | 10 mmol, 1.38 g | CC=1N=CC(=NC1)C(=O)O | C6H6N2O2
reactant | dimethylformamide dimethylacetal | 5 mL | COC(N(C)C)OC | C5H13NO2
reactant | water | 100 mL | O | H2O
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 5-(2-dimethylamino-vinyl)-pyrazine-2-carboxylic acid methyl ester | 1.3 g, 63% | COC(=O)C1=NC=C(N=C1)C=CN(C)C | C10H13N3O2
